US05538966
Step A: N-[[3-(1,3-Dioxolan-2-yl)-2-thienyl]sulfonyl]-glycine Ethyl Ester
A solution of 3-(1,3-dioxolan-2-yl)-thiophene-2-sulfonyl chloride, prepared from thiophene-3-carboxaldehyde ethylene acetal (13.27 g, 85.1 mmol) as described in Example 6, Step A, was combined with glycine ethyl ester hydrochloride (33.99 g, 221 mmol) and a saturated aqueous solution of sodium bicarbonate (250 mL). After stirring for 18 hr at ambient temperature, the organic layer was separated, dried (MgSO4) and evaporated to a residue which was purified by column chromatography (silica, 40% ethyl acetate/hexane) to give an oil (16.55 g, 61%).

reactant | 3-(1,3-dioxolan-2-yl)-thiophene-2-sulfonyl chloride | O1C(OCC1)C1=C(SC=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | thiophene-3-carboxaldehyde ethylene acetal | 85.1 mmol, 13.27 g | C1COC(C2=CSC=C2)O1 | C7H8O2S
reactant | glycine ethyl ester hydrochloride | 221 mmol, 33.99 g | Cl.C(C)OC(CN)=O
solvent | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
product | N-[[3-(1,3-Dioxolan-2-yl)-2-thienyl]sulfonyl]-glycine Ethyl Ester | 16.55 g, 61% | C(C)OC(CNS(=O)(=O)C=1SC=CC1C1OCCO1)=O | C11H15NO6S2
